US04925861
Preparation of 3-(2-(2-benzthiazolyl))ethenylbenzoic acid (Compound No. 1)
2-(2-(3-Cyanophenyl)ethenyl)benzthiazole (3.00 g, 11.5 mmol) was dissolved in 50 ml of ethanol. After 10 ml of 30% aqueous potassium hydroxide solution was added, the resulting mixture was heated under reflux for 19 hours. The reaction mixture was cooled, neutralized with 5% hydrochloric acid, extracted with ethyl acetate, and dried. The solvent was then distilled out to produce a crude product. This crude crystal was washed with ether to afford the indicated compound (2.60 g) with a yield of 81%.

reactant | 2-(2-(3-Cyanophenyl)ethenyl)benzthiazole | 11.5 mmol, 3.00 g | C(#N)C=1C=C(C=CC1)C=CC=1SC2=C(N1)C=CC=C2 | C16H10N2S
reactant | potassium hydroxide | 10 ml | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 3-(2-(2-benzthiazolyl))ethenylbenzoic acid | 2.60 g, yield of 81% | S1C(=NC2=C1C=CC=C2)C=CC=2C=C(C(=O)O)C=CC2 | C16H11NO2S
